US04293691
Preparation of 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-4-dodecylthio-5-oxo-2-pyrazoline (Compound 30)
15.1 g of 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-5-pyrazolone was dissolved in 500 cc of 80% ethanol (volume ratio of ethanol to water: 4:1), and 2.5 g of potassium carbonate was added. 10.4 g of S-(n-dodecylthio)isothiourea hydrochloride dissolved in 100 cc of ethanol was dropwise added over a period of 10 minutes on a steam bath with stirring under heating, and further, the mixture was stirred under heating. After cooling with flowing water, 300 cc of ethyl acetate was added, followed by washing twice with water. After drying ethyl acetate layer with anhydrous sodium sulfate, sodium sulfate was removed, the solvent was concentrated under reduced pressure, and the residue was crystallized from acetonitrile. The thus-obtained crystal was recrystallized from acetonitrile-ethyl acetate (volume ratio: 10:1) to obtain 18 g of the coupler having a melting point of 100° to 102° C. (conversion rate: 95%).

reactant | 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-5-pyrazolone | 15.1 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C16H10Cl5N3O2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | S-(n-dodecylthio)isothiourea hydrochloride | 10.4 g | Cl.C(CCCCCCCCCCC)SSC(N)=N
reactant | water | O | H2O
solvent | ethanol | 500 cc | C(C)O | C2H6O
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6-trichlorophenyl)-3-(2,4-dichloro-5-methoxyanilino)-4-dodecylthio-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)SCCCCCCCCCCCC)NC1=C(C=C(C(=C1)OC)Cl)Cl | C28H34Cl5N3O2S
